US04981993
118 mmoles ethyl acrylate and 10 g (86.5 mmoles) of 90% by weight dimethoxyethanal in methanol were reacted using the method of example 1 to form 4,4-dimethoxy-2-ethoxycarbonyl-3-hydroxy-1-butene as a liquid which distilled at 108° C. under 0.3 mbar.

reactant | ethyl acrylate | 118 mmoles | C(C=C)(=O)OCC | C5H8O2
reactant | dimethoxyethanal | COC(C=O)OC | C4H8O3
solvent | methanol | CO | CH4O
product | 4,4-dimethoxy-2-ethoxycarbonyl-3-hydroxy-1-butene | COC(C(C(=C)C(=O)OCC)O)OC | C9H16O5
